US08236845B2
(2R)-Dimethyl-[5-(1,3,5-trimethyl-1H-pyrazol-4-yl)-1,2,3,4-tetrahydro-naphthalen-2-yl]-amine
(6R)-6-(Dimethylamino)-5,6,7,8-tetrahydronaphthalen-1-yl trifluoromethanesulfonate (2.5 g, 7.731 mmol), 1,3,5-trimethyl-1H-pyrazole-4-boronic acid pinacol ester (2.10 g, 8.893 mmol) and Pd(PPh3)4 (1.2 g, 1.038 mmol) were added to a solution of K2CO3 (2.15 g, 15.556 mmol) in a mixture of 1,2-dimethoxyethane (60 mL) and H2O (8 mL). The reaction mixture was purged with N2 (g) for 10 min, and warmed up to reflux. The reaction was completed in 2 h. It was allowed to reach room temperature, diluted with H2O (200 mL) and extracted with AcOEt (1×400 mL). The organic layer was dried over anhydrous Na2SO4, filtered and concentrated. The residue was purified by flash chromatography on silica gel (0-10-20% Et3N/AcOEt) to afford the desired product as a brown-colored oil. The material was dissolved in CH2Cl2 (200 mL) and acidified with HCl aqueous solution (6 N). The organic layer was discarded, and the aqueous layer was taken to pH>13 with NaOH aqueous solution (6 N). It was extracted with CH2Cl2 (3×300 mL), and the organic layer was dried over anhydrous Na2SO4, filtered and concentrated, to give 1.45 g of the coupling product (Rf=0.2 (10% Et3N/AcOEt), colorless oil, 66% yield).

reactant | (6R)-6-(Dimethylamino)-5,6,7,8-tetrahydronaphthalen-1-yl trifluoromethanesulfonate | 7.731 mmol, 2.5 g | FC(S(=O)(=O)OC1=CC=CC=2C[C@@H](CCC12)N(C)C)(F)F | C13H16F3NO3S
reactant | 1,3,5-trimethyl-1H-pyrazole-4-boronic acid pinacol ester | 8.893 mmol, 2.10 g | CN1N=C(C(=C1C)B1OC(C)(C)C(C)(C)O1)C | C12H21BN2O2
reactant | K2CO3 | 15.556 mmol, 2.15 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,2-dimethoxyethane | 60 mL | COCCOC | C4H10O2
solvent | H2O | 8 mL | O | H2O
catalyst | Pd(PPh3)4 | 1.038 mmol, 1.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2R)-Dimethyl-[5-(1,3,5-trimethyl-1H-pyrazol-4-yl)-1,2,3,4-tetrahydro-naphthalen-2-yl]-amine | CN([C@H]1CC2=CC=CC(=C2CC1)C=1C(=NN(C1C)C)C)C | C18H25N3
